US07902394B2
(e) Ethyl (2E)-3-{4-chloro-3-[(1S)-1,2-dihydroxyethyl]phenyl}acrylate
(1S)-1-(2-chloro-5-iodophenyl)ethane-1,2-diol (2.60 g, 8.71 mmol), propionitrile (87 mL), ethyl acrylate (1.24 mL, 11.32 mmol), and triethylamine (3.6 mL, 26.13 mmol) were combined and N2 was flushed through the solution for 10 minutes. Then Pd(OAc)2 (587 mg, 0.871 mmol) and P(O-tol)3 (1.06 g, 3.48 mmol) were added and the solution was heated to 80° C. After 16 h, the solution was cooled to rt and then EtOAc was added. The solution was washed with 1N HCl (2×), brine, dried, concentrated, and purified by Biotage chromatography (0%-100% EtOAc/hexanes) to afford 1.90 g of product as an oil (81%). 1H NMR (400 MHz, chloroform-d) δ ppm 7.79 (d, J=1.77 Hz, 1 H) 7.65 (d, J=16.17 Hz, 1 H) 7.34-7.40 (m, 2 H) 6.45 (d, J=15.92 Hz, 1 H) 5.24 (ddd, J=7.39, 2.84, 2.65 Hz, 1 H) 4.27 (q, J=7.24 Hz, 2 H) 3.89-3.97 (m, 1 H) 3.57 (ddd, J=11.49, 7.45, 4.55 Hz, 1 H) 2.87 (d, J=3.28 Hz, 1 H) 2.18 (t, J=5.81 Hz, 1 H) 2.05 (s, 3 H) 1.34 (t, J=7.20 Hz, 2 H).

reactant | (1S)-1-(2-chloro-5-iodophenyl)ethane-1,2-diol | 8.71 mmol, 2.60 g | ClC1=C(C=C(C=C1)I)[C@@H](CO)O | C8H8ClIO2
reactant | propionitrile | 87 mL | C(CC)#N | C3H5N
reactant | ethyl acrylate | 11.32 mmol, 1.24 mL | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 26.13 mmol, 3.6 mL | C(C)N(CC)CC | C6H15N
reactant | P(O-tol)3 | 3.48 mmol, 1.06 g | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
catalyst | Pd(OAc)2 | 0.871 mmol, 587 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl (2E)-3-{4-chloro-3-[(1S)-1,2-dihydroxyethyl]phenyl}acrylate | 1.90 g, 81% | ClC1=C(C=C(C=C1)/C=C/C(=O)OCC)[C@@H](CO)O | C13H15ClO4
